US07485722B2
3-(4-Iodo-benzyl)-1-oxa-3-aza-spiro[4.5]decan-2-one
1-Oxa-spiro[4.5]decan-2-one (96 mg, 0.618 mmol), cesium carbonate (Cs2CO3) (605 mg, 1.855 mmol) and 1-bromomethyl-4-iodo-benzene (220 mg, 0.742 mmol) were mixed in acetonitrile (2.5 mL). The reaction mixture was heated at 70° C. for 5 hours, and the diluted with ethyl acetate (8 mL). The mixture was washed with water (2×4 mL) and brine (2×4 mL). The combined organic phase was dried over anhydrous sodium sulfate and concentrated. The crude residue was purified on silica gel eluting with 5 to 25% ethyl acetate in hexane to give the product as a white powder (112 mg, 49%). 1H NMR (300 MHz, CDCl3): δ 7.68 (dd, 2H), 7.03 (dd, 2H), 4.36 (s, 2H), 3.08 (s, 2H), 1.78 (m, 4H), 1.46 (m, 6H).

reactant | 1-Oxa-spiro[4.5]decan-2-one | 0.618 mmol, 96 mg | O1C(CCC12CCCCC2)=O | C9H14O2
reactant | cesium carbonate | 1.855 mmol, 605 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromomethyl-4-iodo-benzene | 0.742 mmol, 220 mg | BrCC1=CC=C(C=C1)I | C7H6BrI
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-Iodo-benzyl)-1-oxa-3-aza-spiro[4.5]decan-2-one | 112 mg, 49% | IC1=CC=C(CN2C(OC3(C2)CCCCC3)=O)C=C1 | C15H18INO2
